US05552534
B. Methyl 6-O-tert-butyldiphenylsilyl-2,3,4-tri-O-benzyl-β-D-glucopyranoside
To a stirred suspension of sodium hydride (1.67 g, 41.6 mmol) in 100 mL of dry THF was added at 0° C. a solution of methyl 6-O-tert-butyldiphenylsilyl-β-D-glucopyranoside (4.0 g, 9.25 mmol) in 50 mL of dry THF. After 5 minutes, the suspension was warmed to room temperature and stirred for 1 hour. Benzyl bromide (5.50 mL, 46.2 mmol) was added at room temperature followed by tetrabutylammonium iodide (341 mg, 0.93 mmol). The suspension was warmed to 50° C. and stirred for 4 days. After quenching with 40 mL of saturated aqueous ammonium chloride, the resulting mixture was diluted with ether (600 mL) and washed with H2O (2×200 mL), saturated aqueous NaCl (1×200 mL), and dried over magnesium sulfate. Concentration and flash chromatography (silica, 10% ether in petroleum ether) provided pure target compound (4.48 g, 69%) as a clear oil.

reactant | sodium hydride | 41.6 mmol, 1.67 g | [H-].[Na+]
reactant | methyl 6-O-tert-butyldiphenylsilyl-β-D-glucopyranoside | 9.25 mmol, 4.0 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC[C@@H]1[C@H]([C@@H]([C@H]([C@H](OC)O1)O)O)O | C23H32O6Si
reactant | Benzyl bromide | 46.2 mmol, 5.50 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
catalyst | tetrabutylammonium iodide | 0.93 mmol, 341 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | Methyl 6-O-tert-butyldiphenylsilyl-2,3,4-tri-O-benzyl-β-D-glucopyranoside | 4.48 g, 69% | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC[C@@H]1[C@H]([C@@H]([C@H]([C@H](OC)O1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C44H50O6Si
